US05081243
To 100 ml of HMPA were added 10.0 g (54.3 mmoles) of 3-cyano-4-imino-9-methyl-4H-pyrido[1,2-a]-pyrimidine and 3.53 g (54.3 mmoles) of sodium azide, and the reaction was carried out with stirring at 70° C. for 3 hours. After cooling, the reaction mixture was neutralized with diluted hydrochloric acid, and the crystals precipitated were collected by filtration to obtain 9.8 9 of light-brown power of 3-(3-methyl-2-pyridyl)amino-2-(1H-tetrazol-5-yl)-2-propenonitrile. Yield: 79%.

reactant | 3-cyano-4-imino-9-methyl-4H-pyrido[1,2-a]-pyrimidine | 54.3 mmoles, 10.0 g | C(#N)C1=CN=C2N(C1=N)C=CC=C2C | C10H8N4
reactant | sodium azide | 54.3 mmoles, 3.53 g | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | HMPA | 100 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 3-(3-methyl-2-pyridyl)amino-2-(1H-tetrazol-5-yl)-2-propenonitrile | Yield: 79% | CC=1C(=NC=CC1)NC=C(C#N)C1=NN=NN1 | C10H9N7
